US04246263
4-(3-Hydroxy-2-butylthiomethyl)pyridine
Sodium methoxide (3.40 g., 63 mmoles) was dissolved in 30 ml. of absolute ethanol under nitrogen and cooled in an ice bath. To the chilled solution there was added a suspension of finely ground 4-picolyl chloride hydrochloride (5.07 g., 30 mmoles) suspended in approximately 30 ml. of absolute ethanol over 15 minutes, followed by the addition of a solution of 3-mercapto-2-butanol [3.19 g., 30 mmoles, Price et al., J. Am. Chem. Soc. 75, 2396 (1953)] in 6 ml. of absolute ethanol over 5 minutes. The reaction mixture was warmed to room temperature and allowed to stir for 14 hours. The reaction mixture was filtered, the solids being extracted with additional ethanol. The ethanol solutions were combined and evaporated to an oil containing solids (6.31 g.), which was taken up in chloroform, solids removed by filtration and concentrated to an oil. The resuling oil was chromatographed on 200 g. of silica gel with chloroform as eluant. Product fractions were combined and stripped to an oil (5.03 g.). Dissolution in approximately 50 ml. of ethyl acetate, filtration through diatomaceous earth and removal of solvent gave purified 4-(3-hydroxy-2-butylthiomethyl)pyridine [oil; ir (film: 3.08, 3.40, 3.45, 6.24, 7.08, 9.20, 12.27μ; m/e calcd: 197, found: 197; pnmr/CDCl3 /TMS/δ: 8.57 (m, 2H), 7.30 (m, 2H), 3.85 (m, 1H), 3.76 (s, 2H), 3.12 (s, broad, 1H, exchanges with D2O), 2.75 (m, 1H) and 1.20 (d, 6H)].

reactant | Sodium methoxide | 63 mmoles, 3.40 g | C[O-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 30 mmoles, 5.07 g | Cl.N1=CC=C(C=C1)CCl
reactant | 3-mercapto-2-butanol | 30 mmoles, 3.19 g | SC(C(C)O)C | C4H10OS
solvent | ethanol | C(C)O | C2H6O
product | 4-(3-Hydroxy-2-butylthiomethyl)pyridine | OC(C(C)SCC1=CC=NC=C1)C | C10H15NOS
